US08802659B2
4-Bromo-6-(trans-4-tert-butyl-cyclohexyloxy)-2-methyl-quinoline
Synthesized as per 6-(trans-4-tert-Butyl-cyclohexyloxy)-2-methyl-4-trifluoromethyl-quinoline using 4-Bromo-2-methyl-quinolin-6-ol as starting material. ESI-MS (M+H+): 378.1.

reactant | 6-(trans-4-tert-Butyl-cyclohexyloxy)-2-methyl-4-trifluoromethyl-quinoline | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)C)C(F)(F)F | C21H26F3NO
reactant | 4-Bromo-2-methyl-quinolin-6-ol | BrC1=CC(=NC2=CC=C(C=C12)O)C | C10H8BrNO
product | 4-Bromo-6-(trans-4-tert-butyl-cyclohexyloxy)-2-methyl-quinoline | BrC1=CC(=NC2=CC=C(C=C12)O[C@@H]1CC[C@H](CC1)C(C)(C)C)C | C20H26BrNO
